US07557103B2
A. 3-Bromo-thieno[3,2-c]pyridine
1.46 g of Thieno[3,2-c]pyridine (10.8 mmol), 907 mg of NaHCO3 (10.8 mmol), 2.82 g of K2HPO4 (16.2 mmol) and 1.69 g of MgSO4 (14.04 mmol) are placed into the flask with 40 ml of chloroform. The reaction mixture is stirred under reflux. 0.72 ml of bromine (14.04 mmol) is added slowly to the mixture and kept stirring for overnight. CH2Cl2 and water are added to the cooled reaction mixture and separated CH2Cl2 layer is dried over Na2SO4 and evaporated. The crude product is applied onto a silica-gel chromatography column (Hexane: AcOEt=5:1→Hexane:AcOEt:2 M NH3 in MeOH=10:3:1) to give 660 mg of the title compound. Yield 29%. mass spectrum (m/e): 215 (M+1); 1H-NMR (CDCl3): 9.17 (m, 1H), 8.59 (m, 1H), 7.83 (d, 1H, J=5.2 Hz), 7.52 (s, 1H) ppm.

reactant | Thieno[3,2-c]pyridine | 10.8 mmol, 1.46 g | S1C=CC=2C=NC=CC21 | C7H5NS
reactant | NaHCO3 | 10.8 mmol, 907 mg | C(=O)(O)[O-].[Na+]
reactant | K2HPO4 | 16.2 mmol, 2.82 g | OP(=O)([O-])[O-].[K+].[K+]
reactant | MgSO4 | 14.04 mmol, 1.69 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | bromine | 14.04 mmol, 0.72 ml | BrBr | Br2
solvent | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Bromo-thieno[3,2-c]pyridine | 660 mg, Yield 29% | BrC1=CSC2=C1C=NC=C2 | C7H4BrNS
